US09260408B2
N-((5-Bromo-4-chloropyridin-3-yl)methyl)ethanesulfonamide
In analogy to the procedure described for the preparation of intermediate A-11, 5-bromo-4-chloro-pyridine-3-carbaldehyde has been reacted first with ethanesulfonamide, followed by reduction of the thus formed imine with NaBH4 in MeOH to give the title compound as a light orange solid. MS: 313.2 and 315.1 (M+H+).

reactant | 5-bromo-4-chloro-pyridine-3-carbaldehyde | BrC=1C(=C(C=NC1)C=O)Cl | C6H3BrClNO
reactant | ethanesulfonamide | C(C)S(=O)(=O)N | C2H7NO2S
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | N-((5-Bromo-4-chloropyridin-3-yl)methyl)ethanesulfonamide | BrC=1C(=C(C=NC1)CNS(=O)(=O)CC)Cl | C8H10BrClN2O2S
